US06436982B1
2-Ethyl-4-bromo-5-aminobenzimidazole.
To a solution of 1.3 g (7.7 mmol) of 2-ethyl-5-aminobenzimidazole in 50 ml of AcOH was added 0.40 ml of Br2 (7.5 mmol) dropwise and resulting reaction mixture was stirred for 1 h at 25° C. The reaction mixture was concentrated in vacuo and purified on silica gel column chromatography (20% isopropanol/EtOAC) to yield 1.5 g (6.3 mmol, 82%) of the desired product.

reactant | 2-ethyl-5-aminobenzimidazole | 7.7 mmol, 1.3 g | C(C)C=1NC2=C(N1)C=CC(=C2)N | C9H11N3
reactant | Br2 | 7.5 mmol, 0.40 ml | BrBr | Br2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 2-Ethyl-4-bromo-5-aminobenzimidazole | 6.3 mmol, 1.5 g, 82% | C(C)C=1NC2=C(N1)C=CC(=C2Br)N | C9H10BrN3
